US07223789B2
Step 2: N1-benzyl-4-methoxy-8-amino-dibenzo[b,d]furan-1-carboxamide
N1-benzyl-4-methoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide (125 mg, 0.33 mmol) (from step1) and iron powder (56 mg, 1.0 mmol) was suspended in 50% aqueous ethanol (10 ml) and reflux for 10 min. To this was added a solution of concentrated HCl (7 ul in 5 ml 50% aqueous ethanol) and refluxed for 4 h. The reaction mixture was flitered hot through celite and the filterate was basified with 15% ethanolic KOH, filtered and the filterate was concentrated in vaccuo. The residue was triturated with water, to obtain a solid which-was filtered dried to give the product as white solid (90 mg) mp: 228° C.

reactant | N1-benzyl-4-methoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide | 0.33 mmol, 125 mg | C(C1=CC=CC=C1)NC(=O)C1=CC=C(C=2OC3=C(C21)C=C(C=C3)[N+](=O)[O-])OC | C21H16N2O5
reactant | HCl | 7 ul | Cl | ClH
reactant | KOH | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | iron | 1.0 mmol, 56 mg | [Fe] | Fe
product | N1-benzyl-4-methoxy-8-amino-dibenzo[b,d]furan-1-carboxamide | 90 mg | C(C1=CC=CC=C1)NC(=O)C1=CC=C(C=2OC3=C(C21)C=C(C=C3)N)OC | C21H18N2O3
